US05559111
l) 3(S)-Isopropyl-5(S)-(1(S)-azido-3(S)-isopropyl-4-oxo-butyl)-tetrahydrofuran-2-one
1.45 ml of oxalyl chloride are added dropwise at 0° C., with stirring, within a period of 10 minutes, to a solution of 1.7 g of 3(S)-isopropyl-5(S)-(1(S)-azido-3(S)-carboxy-4-methyl-pentyl)-tetrahydrofuran-2-one in 20 ml of toluene. 0.03 ml of dimethylformamide is then added, and the temperature is then increased to 37° C. within a period of 30 minutes. The reaction mixture is stirred for 2 hours at 37° C. and is then clarified by filtration and concentrated by evaporation under reduced pressure at a bath temperature of 30° C. The residue is twice dissolved in 10 ml of toluene and concentrated by evaporation again in the same manner. The crude acid chloride so obtained is dissolved in 5 ml of tetrahydrofuran, and 16 ml of a 0.34M solution of NaAlH(O-tert-bu)3 in diglyme (H. C. Brown et al., J. Org. Chem. (1992) 58.472) are added thereto at -75° C. within a period of 30 minutes. The reaction mixture is stirred for 70 minutes at -75° C., and then a solution of 0.385 ml of glacial acetic acid in 1 ml of tetrahydrofuran is added dropwise at the same temperature, followed by 2.1 ml of saturated NH4Cl solution and then 20 ml of diethyl ether. The reaction mixture is brought to room temperature and is partitioned between diethyl ether and water/saturated sodium chloride solution. The organic phases are combined, dried over magnesium sulfate and concentrated by evaporation, and the residue is purified by means of FC (hexane/ethyl acetate=95:5), yielding the title compound: Rf (hexane/ethyl acetate=2:1)=0.55; HPLC Rt =16.41 minutes.

reactant | oxalyl chloride | 1.45 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3(S)-isopropyl-5(S)-(1(S)-azido-3(S)-carboxy-4-methyl-pentyl)-tetrahydrofuran-2-one | 1.7 g | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@@H](C(C)C)C(=O)O)N=[N+]=[N-])=O | C14H23N3O4
reactant | dimethylformamide | 0.03 ml | CN(C=O)C | C3H7NO
reactant | NH4Cl | 2.1 ml | [NH4+].[Cl-]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | diglyme | COCCOCCOC | C6H14O3
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | acetic acid | 0.385 ml | C(C)(=O)O | C2H4O2
product | 3(S)-Isopropyl-5(S)-(1(S)-azido-3(S)-isopropyl-4-oxo-butyl)-tetrahydrofuran-2-one | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C=O)C(C)C)N=[N+]=[N-])=O | C14H23N3O3
